US06084095
Reaction of 4,6-dichloro-5-nitropyrimidine with CuCN/NMP gives the 4-nitrile. Reduction of the nitro group to the amine is followed by diazotization/thiation to give the corresponding 5-mercapto compound. Reaction of this with Me3Al/NH4Cl gives the amidine which is oxidatively cyclized with NBS to 7-amino-4-chloroisothiazolo[4,5-d]pyrimidine. Removal of the amino functionality by diazotization/hypophosphorus acid is followed by displacement of the 4-chlorine with an appropriate amine to give the desired isothiazolo[4,3-d]pyrimidine derivatives as shown above.

reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 7-amino-4-chloroisothiazolo[4,5-d]pyrimidine | NC1=C2C(N(C=N1)Cl)=CNS2 | C5H5ClN4S
product | isothiazolo[4,3-d]pyrimidine | N=1SC=C2N=CN=CC21 | C5H3N3S
